* C:\Users\You\Documents\Project-Tally\LineControlCircuit.asc
XU1 N006 N004 N002 Vcc 0 LTC2054
XU2 N003 N002 N005 Vcc 0 LTC2054
R1 Vcc N003 10k
R2 N003 0 1k
V1 Vcc 0 3.3
C1 N004 N002 {C_Int}
R3 N004 0 {R_f}
R4 N005 0 10k
V2 Pulse 0 PULSE(0 3.3 10e-4 1e-9 1e-9 10e-3 20e-3 1)
V3 -Vcc 0 -3.3
R5 N006 Pulse {R_f}
C2 N006 0 {C_Int}
M1 N002 N001 N004 N004 2N7002
M2 N001 Pulse 0 0 2N7002
M3 N001 Pulse Vcc Vcc FDC638P
XU3 N012 N010 N008 Vcc 0 LTC2054
XU4 N009 N008 N011 Vcc 0 LTC2054
R6 Vcc N009 10k
R7 N009 0 20k
C3 N010 N008 {C_Int}
R8 N010 0 {R_f}
R9 N011 0 10k
R10 N012 Pulse {R_f}
C4 N012 0 {C_Int}
M4 N008 N007 N010 N010 IRF6201
M5 N007 Pulse 0 0 2N7002
M6 N007 Pulse Vcc Vcc FDC638P
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\You\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 200e-3
.param R_f = 10k
.param C_Int = 1u
.lib LTC2.LIB
.backanno
.end
