* C:\Users\You\Documents\Project-Tally\PulseLengthTrigger.asc
C1 N004 0 {mc(1µ, C_tol)}
R1 N004 N003 {mc(10k, R_tol)}
XU1 N004 VRef N001 Vcc 0 LTC2054
V1 N003 0 PULSE(0 3.3 1e-3 1e-9 1e-9 10e-3 20e-3 1)
V2 Vcc 0 3.3
R2 Vcc VRef {mc(30k, R_tol)}
R3 VRef 0 {mc(10k, R_tol)}
M1 N004 N005 0 0 2N7002
A1 N003 0 0 0 0 N005 0 0 BUF Vhigh=3.3 Vlow=0
A2 N001 0 0 0 0 N002 0 0 BUF Vhigh=3.3 Vlow=0
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\You\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 25e-3
.param C_tol = 0.2
.param R_tol = 0.05
.step param run 1 10 1
.lib LTC2.LIB
.backanno
.end
